US06462050B1
Preparation of 2-[3-(2,2-Difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-N-(2-pyridin-4-ylethyl)-acetamide
4-1 was prepared from [3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetic acid and 4-(2-aminoethyl)pyridine essentially according to the procedure of Example 1, Step K. It was characterized as the hydrochloride salt. Mass Spectrum: Found: (M+1) 429.2.

reactant | [3-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-acetic acid | FC(CNC=1C(N(C(=CN1)C)CC(=O)O)=O)(C1=NC=CC=C1)F | C14H14F2N4O3
reactant | 4-(2-aminoethyl)pyridine | NCCC1=CC=NC=C1 | C7H10N2
product | 2-[3-(2,2-Difluoro-2-pyridin-2-yl-ethylamino)-6-methyl-2-oxo-2H-pyrazin-1-yl]-N-(2-pyridin-4-ylethyl)-acetamide | FC(CNC=1C(N(C(=CN1)C)CC(=O)NCCC1=CC=NC=C1)=O)(C1=NC=CC=C1)F | C21H22F2N6O2
